US06479497B1
(S)-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-2-methoxy-4-morpholinobenzamide
A stirred solution of 1,1′-carbonyldiimidazole (222 mg, 1.37 mmol) and 2-methoxy-4-morpholinobenzoic acid (176 mg, 0.740 mmol) in anhydrous N,N-dimethylformamide (5 mL) was heated at 75° C. for 2 h, and was then allowed to cool. A solution of (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran (183 mg, 0.740 mmol) in anhydrous N,N-dimethylformamide (4 mL) was added. The reaction mixture was stirred at room temperature for 5 days. The solvent was removed in vacuo, and the residue was partitioned between ethyl acetate (50 mL) and a 2 M NH3 solution (15 mL). The organic layer was dried (MgSO4), and the solvent was removed in vacuo. The residue was purified by column chromatography on silica (eluent: chloroform/ethanol, 93:7+0.5% conc. NH3) affording 113 mg (30% yield) of the title compound as an uncolored foam: [α]21D−141° (c 0.5, chloroform); EIMS (70 eV) m/z (relative intensity) 466 (20, M30 ).

reactant | 1,1′-carbonyldiimidazole | 1.37 mmol, 222 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-methoxy-4-morpholinobenzoic acid | 0.740 mmol, 176 mg | COC1=C(C(=O)O)C=CC(=C1)N1CCOCC1 | C12H15NO4
reactant | (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran | 0.740 mmol, 183 mg | N[C@@H]1COC2=C(C1)C(=CC=C2)N2CCN(CC2)C | C14H21N3O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | (S)-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-2-methoxy-4-morpholinobenzamide | 113 mg, 30% yield | CN1CCN(CC1)C1=CC=CC2=C1C[C@H](CO2)C=2C(=C(C(=O)N)C=CC2N2CCOCC2)OC | C26H34N4O4
